Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine / Codeine / Beta-Blockers (Beta-Adrenergic Blocking Agts)
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Intubation ___ 
attach
 
Pertinent Results:
RELEVANT IMAGING
===================
___ CXR PORTABLE AP: 
Lower lung opacities may reflect combination of pleural effusion
and atelectasis, difficult to exclude a component of aspiration 
sequelae and pneumonia. ET tube and OG tubes positioned 
appropriately. 

___ CT HEAD W/O CONTRAST: 
There is no evidence of fracture, infarction, hemorrhage, edema, 
or
mass. There is prominence of the ventricles and sulci suggestive
of involutional changes. 

DISHCARGE LABS
====================
___ 01:59AM BLOOD WBC-10.6* RBC-2.67* Hgb-9.4* Hct-31.2* 
MCV-117* MCH-35.2* MCHC-30.1* RDW-14.2 RDWSD-60.7* Plt Ct-98*
___ 01:59AM BLOOD Plt Ct-98*
___ 01:59AM BLOOD Glucose-161* UreaN-50* Creat-1.6* Na-143 
K-5.3 Cl-109* HCO3-26 AnGap-8*
___ 01:59AM BLOOD Calcium-7.2* Phos-4.8* Mg-2.4

MICROBIOLOGY 
====================

___ 9:56 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, ___
      infected patients the excretion of antigen ___ urine may 
vary. 

 
 
___ 9:56 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___: 
      POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS. 

___ 11:29 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
      YEAST.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

 
 

 
Brief Hospital Course:
Mr. ___ is a ___ yom man with a history of CAD (s/p MI), 
COPD/Asthma (reportedly), esophageal dysmotility (s/p PEG), who 
presented with 3 days of decreased
energy, worsening confusion, and weakness before ultimately 
being
found unresponsive and febrile (T= 104.8) with concerns for a 
RLL
pneumonia. He was intubated for airway protection ___ the ER and
required the initiation of norepinephrine prior to transfer to
ICU for further evaluation and management. ___ the ICU he was 
treated with antibiotics for his presumed pneumonia. On ___ a 
family meeting was held with his family and the primary team and 
the decision was made to proceed with CMO given his overall poor 
prognosis and small chance for meaningful recovery. He was 
extubated and died ___ the afternoon of ___.

ACUTE ISSUES
=======================
# Acute hypercarbic and hypoxic respiratory failure
# Asthma/COPD
Presented after being found down with VBG ___ 
requiring
intubation for airway protection. Hypercarbia was likely acute 
on
chronic given history of COPD. Etiology of respiratory failure
likely infectious given fevers and CXR c/f PNA (RLL, possible
aspiration with contribution of aspiration pneumonitis). Also
with likely contribution from known history of asthma/COPD. Flu
was negative.  Lactate <2 and hypertensive on arrival. He 
required  low
dose levophed ___ the ICU. See below for discussion. Family 
meeting on ___
with patient's wife and children and made decision to go CMO
given poor overall prognosis and little chance for meaningful
recovery. 

# Septic shock vs Medication induced hypotension
On levophed, likely infectious etiology with PNA > UTI on ddx.
CXR with c/f PNA. Possible aspiration component. UA on admission
with few bacteria and protein so UTI possible but less likely 
the
source of fevers. Initially some possible contribution from
sedative medications but subsequently off Propofol and only on 
fentanyl
with a small amount of levophed.

# Hypoactive AMS
Found unresponsive ___ his home by family without known head
strike. Unknown time down. Likely toxic-metabolic
encephalopathy due to infectious process, likely PNA. However,
could also have had primary neurologic process such as seizures
(although no history) or CNS infection given severe fever and
altered mental status. Must also consider stroke. Review of
medications reveals few sedating medications, although he does
take trazadone nightly. No major electrolyte abnormaliaties
outside of hyperkalemia. Held off on further intervention, 
likely ___ delirium on dementia. 

# Hyperkalemia - improved
Presented with K 6.1 and whole blood K 5.5. He was found
unresponsive which makes rhabdomyolsis a consideration, although
there was no report of significant time down. Also likely some
component of acute on chronic acidemia contributing to hyperK. 
He
is not on any potassium-sparking diuretics or other medications
known to cause hyperkalemia. His potassium improved during his 
admission.

#CAD
#RBBB
#HTN
Trop 0.05 ___ the ED. Unable to ask patient about chest pain iso
intubation. Has known history of CAD and prior MI. Low concern
for ACS given likelihood of demand ischemia (EKG
without changes, patient tachycardic, potentially septic). Trop 
trend not
concerning. Ultimately likely demand iso sepsis.

#Macrocytic Anemia
Likely some contribution from nutritional deficiencies given low
albumin as well. Historically he has had a macrocytic anemia 
with
an elevated RDW. No active signs of bleeding.

#Esophageal dysmotility
#GERD
#Nutrition
Has chronic PEG tube for feeds, last exchanged with ___ on 
___.
Albumin 2.9.

#Anxiety
- Hold citalopram 10mg daily
- Hold trazodone 50mg qHS

#BPH
- Hold Finasteride 5mg PO daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. TraZODone 50 mg PO QHS 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
Patient deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___